US08497281B2
Step 3: trifluoro-methanesulfonic acid cis-1-(2,2,2-trifluoro-acetyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester
Trifluoromethanesulfonic anhydride (5.6 mL) is added dropwise to a solution of 2,2,2-trifluoro-1-(cis-6-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone (7.3 g), triethylamine (7.2 mL), and 4-dimethylaminopyridine (50 mg) in dichloromethane (60 mL) chilled in an ice bath. The solution is stirred with cooling for 1 h and at room temperature for 2 h. Water (100 mL) and dichloromethane (100 mL) are then added and the organic phase is separated. The organic phase is washed with water (50 mL), dried (MgSO4), and concentrated to give the title compound as a dark oil. Yield: 10.7 g (quantitative); TLC: rf=0.50 (silica gel, cyclohexane/ethyl acetate 3:1); Mass spectrum (ESI+): m/z=418 [M+H]+.

reactant | Trifluoromethanesulfonic anhydride | 5.6 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,2,2-trifluoro-1-(cis-6-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone | 7.3 g | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)O)(F)F | C14H14F3NO2
reactant | triethylamine | 7.2 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid cis-1-(2,2,2-trifluoro-acetyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)OS(=O)(=O)C(F)(F)F)(F)F | C15H13F6NO4S
